US05663053
A mixture of 2,4,5-triphenylimidazole (11 g), ethyl 8-bromooctanoate (18.64 g), anhydrous potassium carbonate (51.3 g) and dry butanone (350 ml ) was heated at reflux for 26 h. The cooled reaction mixture was filtered to remove inorganics and the flitrate was evaporated to dryness in vacuo. The residue was stirred in hexane and unreacted 2,4,5-triphenylimidazole was collected by filtration (3.1 g). The flitrate was cooled and a white precipitate was collected. Recrystallisation from hexane gave 1-(7-ethoxy-carbonyl-heptyl)-2,4,5-triphenylimidazole (8.37 g, 48.4%) as a white solid, m.p. 65°-7°.

reactant | 2,4,5-triphenylimidazole | 11 g | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | ethyl 8-bromooctanoate | 18.64 g | BrCCCCCCCC(=O)OCC | C10H19BrO2
reactant | potassium carbonate | 51.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 350 ml | CC(CC)=O | C4H8O
product | 1-(7-ethoxy-carbonyl-heptyl)-2,4,5-triphenylimidazole | 8.37 g, 48.4% | C(C)OC(CCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=C=O | C31H32N2O2
